US04474754
7(a). Preparation of Boc-Glu-Ser-Leu-Arg-Ser-Lys(Tos)-Glu-OH
150 Milligrams of Boc-Glu(OBzl)-Ser-Leu-Arg-Ser-Lys(Tos)-Glu-OH was dissolved in a mixture of 30 ml of methanol with 30 ml of 10%-acetic acid, to this solution was added a small amount of palladium black and stirred for 18 hours under the conditions of introducing hydrogen gas. After completion of the reaction, the catalyst was removed by suction filtration, the filtrate was subjected to distillation under a reduced pressure, the residue thus obtained was added water and was lyophilized to obtain the desired product.

reactant | Boc-Glu(OBzl)-Ser-Leu-Arg-Ser-Lys(Tos)-Glu-OH | N([C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCCCNS(=O)(=O)C1=CC=C(C)C=C1)C(=O)N[C@@H](CCC(O)=O)C(=O)O)C(=O)OC(C)(C)C | C53H81N11O18S
reactant | hydrogen | [H][H] | H2
reactant | water | O | H2O
solvent | methanol | 30 ml | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | palladium black | [Pd] | Pd
product | Boc-Glu-Ser-Leu-Arg-Ser-Lys(Tos)-Glu-OH | N([C@@H](CCC(O)=O)C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCCCNS(=O)(=O)C1=CC=C(C)C=C1)C(=O)N[C@@H](CCC(O)=O)C(=O)O)C(=O)OC(C)(C)C | C46H75N11O18S
